US08669249B2
Methyl 2-(4-bromo-2-nitrophenoxy)propanoate (7)
Using 4-bromo-2-nitrophenol as the phenol and methyl-2-bromopropanoate as the alkylating agent in the general procedure for alkylation of substituted-2-nitrophenols gives a dark red oil: 1H NMR (DMSO-d6, 400 MHz): δ ppm 8.13 (d, J=2.5 Hz, 1H), 7.80 (dd, J=8.8, 2.5 Hz, 1H), 7.24 (d, J=9.1 Hz, 1H), 5.29 (q, J=6.8 Hz, 1H), 3.68 (s, 3H), 1.52 (d, J=6.6 Hz, 3H). ESI-MS: m/z 305.1 (M+H)+.

reactant | 4-bromo-2-nitrophenol | BrC1=CC(=C(C=C1)O)[N+](=O)[O-] | C6H4BrNO3
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | methyl-2-bromopropanoate | COC(C(C)Br)=O | C4H7BrO2
product | Methyl 2-(4-bromo-2-nitrophenoxy)propanoate | BrC1=CC(=C(OC(C(=O)OC)C)C=C1)[N+](=O)[O-] | C10H10BrNO5
